US08021822B2
Synthesis of 4-tert-butylphenyldiphenylsulfonium 2-(pivaloyloxy)-1,1-difluoroethanesulfonate [PAG-3]
In 150 g of dichloromethane were dissolved 20 g (0.052 mole) of sodium 2-(pivaloyloxy)-1,1-difluoroethanesulfonate (purity 70%) and 217 g (0.052 mole) of a 4-tert-butylphenyl-diphenylsulfonium bromide aqueous solution. The organic layer was separated, washed three times with 50 g of water, and concentrated. Diethyl ether was added to the residue for recrystallization, obtaining the target compound as white crystals. 26 g (yield 79%).

reactant | sodium 2-(pivaloyloxy)-1,1-difluoroethanesulfonate | 0.052 mole, 20 g | C(C(C)(C)C)(=O)OCC(S(=O)(=O)[O-])(F)F.[Na+]
reactant | 4-tert-butylphenyl-diphenylsulfonium bromide | 0.052 mole, 217 g | [Br-].C(C)(C)(C)C1=CC=C(C=C1)[S+](C1=CC=CC=C1)C1=CC=CC=C1
solvent | dichloromethane | 150 g | ClCCl | CH2Cl2
product | 4-tert-butylphenyldiphenylsulfonium 2-(pivaloyloxy)-1,1-difluoroethanesulfonate | yield 79% | C(C(C)(C)C)(=O)OCC(S(=O)(=O)[O-])(F)F.C(C)(C)(C)C1=CC=C(C=C1)[S+](C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C22H23S.C7H12F2O5S/c1-22(2,3)18-14-16-21(17-15-18)23(19-10-6-4-7-11-19)20-12-8-5-9-13-20;1-6(2,3)5(10)14-4-7(8,9)15(11,12)13/h4-17H,1-3H3;4H2,1-3H3,(H,11,12,13)/q+1;/p-1
